US06410592B1
A: cis-2-(N-Benzylmethylamino)methyl-6-methoxy-1-phenyl-1,2,3,4-tetrahydronaphthalene
To a mixture of cis-6-methoxy-2-methylamino-1-phenyl-1,2,3,4-tetrahydronaphthalene (3.55 g, prepared according to Process 1), triethylamine (3.12 cm3) and N,N-dimethylformamide (40 cm3) was added benzyl bromide (1.60 cm3). The mixture was warmed to 80° C. and stirred for 2 h. Upon cooling, the solvent was evaporated under reduced pressure to afford a brown oil. This was purified by column chromatography [silica, eluting with petroleum ether (b. p. 40-60° C.)-ethyl acetate (4:1)] to afford the title compound (3.52 g) as a light brown oil which solidified on standing.

reactant | cis-6-methoxy-2-methylamino-1-phenyl-1,2,3,4-tetrahydronaphthalene | 3.55 g | COC=1C=C2CC[C@@H]([C@@H](C2=CC1)C1=CC=CC=C1)NC | C18H21NO
reactant | triethylamine | 3.12 cm3 | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 1.60 cm3 | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 40 cm3 | CN(C=O)C | C3H7NO
product | cis-2-(N-Benzylmethylamino)methyl-6-methoxy-1-phenyl-1,2,3,4-tetrahydronaphthalene | 3.52 g | C(C1=CC=CC=C1)CNC[C@@H]1[C@@H](C2=CC=C(C=C2CC1)OC)C1=CC=CC=C1 | C26H29NO
